US04877899
Following the procedure of Example 10, 2-butoxyethyltosylate (26.85 g, 98.7 mmol) and 3-mercapto-1,2-propanediol (10.68 g, 98.7 mmol) are reacted together to give 3-(2-butoxyethylthio)-1,2-propanediol, which diol (10.0 g, 52.5 mmol) is reacted with tosyl chloride (10.0 g) in pyridine. The tosylate (9.27 g, 25.6 mmol) is reacted with NaOH (1.02 g, 25.6 mmol) to give 2-(2-butoxyethylthiomethyl)oxirane. The oxirane (1.0 g, 5.26 mmol) and potassium t-butoxide (0.18 g, 1.58 mmol) are reacted together to give 3-(2-butoxyethylthio)-2-propenol, which propenol (4.72 g, 25.0 mmol) is reacted with acetic anhydride to give 3-(2-butoxyethylthio)-2-propenyl acetate.

reactant | 2-butoxyethyltosylate | 98.7 mmol, 26.85 g | C(CCC)OCCOS(=O)(=O)C1=CC=C(C)C=C1 | C13H20O4S
reactant | 3-mercapto-1,2-propanediol | 98.7 mmol, 10.68 g | SCC(CO)O | C3H8O2S
product | 3-(2-butoxyethylthio)-1,2-propanediol | C(CCC)OCCSCC(CO)O | C9H20O3S
